US04421758
(a) 2-Benzoyloxymethyl-3,4-dihydro-2H-pyran
9.77 g of benzoyl chloride were slowly added dropwise to a solution of 7.20 g of 2-hydroxymethyl-3,4-dihydro-2H-pyran in 14 ml of dry pyridine, whilst cooling the solution on an ice-water bath. When the addition was complete, the mixture was stirred at room temperature for 2 hours and then poured into an aqueous solution of sodium bicarbonate. The mixture was extracted with diethyl ether and the ethereal extract was washed with aqueous sodium chloride and dried over anhydrous sodium sulphate. The solvent was then evaporated off under reduced pressure and the residue was purified by distillation under reduced pressure, to give the title compound boiling at 112°-113° C./10 mmHG.

reactant | benzoyl chloride | 9.77 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-hydroxymethyl-3,4-dihydro-2H-pyran | 7.20 g | OCC1OC=CCC1 | C6H10O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 14 ml | N1=CC=CC=C1 | C5H5N
product | 2-Benzoyloxymethyl-3,4-dihydro-2H-pyran | C(C1=CC=CC=C1)(=O)OCC1OC=CCC1 | C13H14O3
